US08471005B2
2-Methoxy-3-nitro-benzoic acid (1.20 g, 6.09 mmol), 1-Methylpiperazine (1.01 mL, 9.13 mmol) N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1750 mg, 9.13 mmol, 1-hydroxybenzotriazole hydrate (1.45 g, 9.13 mmole) and N,N-Dimethylformamide (40.4 mL) were combined into a vial and stirred at room temperature for 1 hour. LCMS showed complete conversion to product. Diluted reaction mixture with saturated NaHCO3 and filtered off resulting ppt. The solid was filtered and washed with water. The solid was dried under vacuum overnight to give (2-Methoxy-3-nitro-phenyl)-(4-methyl-piperazin-1-yl)-methanone as a white solid (0.70 g, 44%)

reactant | 2-Methoxy-3-nitro-benzoic acid | 6.09 mmol, 1.20 g | COC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO5
reactant | 1-Methylpiperazine | 9.13 mmol, 1.01 mL | CN1CCNCC1 | C5H12N2
reactant | 1-hydroxybenzotriazole hydrate | 9.13 mmole, 1.45 g | O.ON1N=NC2=C1C=CC=C2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-Dimethylformamide | 40.4 mL | CN(C=O)C | C3H7NO
product | (2-Methoxy-3-nitro-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 0.70 g, 44% | COC1=C(C=CC=C1[N+](=O)[O-])C(=O)N1CCN(CC1)C | C13H17N3O4
